US06632810B2
Synthesis of (6′-nitro-2′,3′,4′-trimethoxyphenyl) benzyloxyacetate:
6-Nitro-2,3,4-trimethoxyphenol (1.25 g) and triethylamine (1.12 mL) were dissolved in dichloromethane (20 mL), benzyloxyacetyl chloride (1.1 mL) was added dropwise to the solution under ice cooling, and the mixture was stirred for 2 hours as it is. The reaction mixture was extracted with chloroform, and the extract was washed with water and saturated brine, dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The residue was purified by column chromatography on silica gel (ethyl acetate:hexane=1:4) to obtain the title compound. Yield: 1.38 g (66.5%).

reactant | 6-Nitro-2,3,4-trimethoxyphenol | 1.25 g | [N+](=O)([O-])C1=CC(=C(C(=C1O)OC)OC)OC | C9H11NO6
reactant | triethylamine | 1.12 mL | C(C)N(CC)CC | C6H15N
reactant | benzyloxyacetyl chloride | 1.1 mL | C(C1=CC=CC=C1)OCC(=O)Cl | C9H9ClO2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | (6′-nitro-2′,3′,4′-trimethoxyphenyl) benzyloxyacetate | C(C1=CC=CC=C1)OCC(=O)OC1=C(C(=C(C=C1[N+](=O)[O-])OC)OC)OC | C18H19NO8
